US05461036
To 2-bromotetradecanoic acid (2 g) dissolved in acetonitrile (100 mg) were added calcium chloride (7.2 g), tetraethylammonium chloride (2.2 g) and triethylamine (0.84 ml), and the mixture was stirred at 80° C. for 3 hours. After precipitates produced by cooling the reaction mixture was removed by filtration, the filtrate was concentrated and the residue was distributed into ethyl acetate and an aqueous citric solution. The ethyl acetate layer was dried and concentrated to give 2-chloro-tetradecanoic acid (1.29 g). To 2-chlorotetradecanoic acid (1.29 g) dissolved in N, N-dimethylformamide (DMF, 50 ml) were added para-nitrophenol (0.68 g) and N,N'-dicyclohexylcarbodiimide (1.1 g), and the mixture was stirred for 12 hours. After precipitates were removed by filtration, the solvent (DMF) was evaporated and the residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 200:1 to 50:1) to give the active ester of 2-chlorote tradecanoic acid (11.12 g). To the active ester (500 mg) dissolved in DMF (30 ml) were added 6-(4'-N-glycyl -spicaminyl-amino)purine hydrochloride (500 mg) and triethylamine (2.0 ml). The mixture was stirred for 12 hours. After the solvent was evaporated, the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK259 in the yield of 202 mg.

reactant | 2-bromotetradecanoic acid | 2 g | BrC(C(=O)O)CCCCCCCCCCCC | C14H27BrO2
reactant | calcium chloride | 7.2 g | [Cl-].[Ca+2].[Cl-]
reactant | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mg | C(C)#N | C2H3N
catalyst | tetraethylammonium chloride | 2.2 g | [Cl-].C(C)[N+](CC)(CC)CC
product | 2-chloro-tetradecanoic acid | 1.29 g | ClC(C(=O)O)CCCCCCCCCCCC | C14H27ClO2
